US05315025
A 1 M solution of borane-tetrahydrofuran complex (30 ml) was added dropwise to a stirred solution of 2-phenoxybenzoic acid (5.35 g) in dry THF (50 ml), cooled to 0° C. (effervescence). Following the addition, the mixture was stirred at 0° C. for 15 minutes, then at room temperature for 1.5 hours. It was poured into water and extracted with ether. The extracts were washed successively with water, aqueous sodium bicarbonate, aqueous sodium carbonate, then dried and concentrated under reduced pressure to give 2-phenoxybenzyl alcohol (4.83 g, 97%) as a colourless oil.

reactant | 2-phenoxybenzoic acid | 5.35 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-phenoxybenzyl alcohol | 4.83 g, 97% | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
